US06562849B1
To a mixture of 5-[4-[6-[2-(4-aminophenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione (4 g) and N,N-dimethylformamide (10 ml) was added 4-nitrophenyl isocyanate (0.16 g) and the mixture was stirred at room temperature for 1 hour and allowed to stand overnight. The reaction mixture was partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. To the residue was added ethyl acetate. The precipitate was isolated by filtration and purified by preparative normal phase medium pressure liquid chromatography using ethyl acetate:tetrahydrofuran=4:1 as the eluant to give 1-[4-(2-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]ethyl)phenyl]-3-(4-nitrophenyl)urea. To a solution of the product in a mixture of tetrahydrofuran and methanol (1:1, 10 ml) was added 4N hydrogen chloride in 1,4-dioxane (2 ml) and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was concentrated and the residue was recrystallized from a mixture of methanol and tetrahydrofuran to afford the title compound (0.16 g, mp 170° C.(dec)).

reactant | 5-[4-[6-[2-(4-aminophenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 4 g | NC1=CC=C(C=C1)CCOC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C27H26N4O4S
reactant | 4-nitrophenyl isocyanate | 0.16 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[4-(2-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]ethyl)phenyl]-3-(4-nitrophenyl)urea | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OCCC3=CC=C(C=C3)NC(=O)NC3=CC=C(C=C3)[N+](=O)[O-])C=C1 | C34H30N6O7S
